US08835628B2
2-ethyl-4-(4-nitrophenylcarbonyl)-8-(prop-1-enyl)-2H-benzo[b][1,4]oxazin-3(4H)-one
Procedure & NMR Data: 107 mg (2.5 eq, 0.58 mmol) of 4-Nitrobenzoyl chloride was added to a mixture of 37 mg (4 eq, 0.92 mmol) of NaH and 50 mg (0.23 mmol) of oxazinone P2 in THF (10 mL). 81 mg of P7 were obtained, yield 96%.

reactant | 4-Nitrobenzoyl chloride | 0.58 mmol, 2.5 eq | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | NaH | 0.92 mmol, 37 mg, 4 eq | [H-].[Na+]
reactant | oxazinone | 0.23 mmol, 50 mg | O1NC(CC=C1)=O | C4H5NO2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-ethyl-4-(4-nitrophenylcarbonyl)-8-(prop-1-enyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | yield 96% | C(C)C1C(N(C2=C(O1)C(=CC=C2)C=CC)C(=O)C2=CC=C(C=C2)[N+](=O)[O-])=O | C20H18N2O5
